US07423036B2
c) 3-(1-{3-[2-hydroxy-2-(6-hydroxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-ethylamino]-3-methyl-butyl}-5-methyl-1H-[1,2,4]triazol-3-yl-benzoic acid
250 mg (0.36 mmol) 3-(1-{3-[2-(6-benzyloxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-2-hydroxy-ethylamino]-3-methyl-butyl}-5-methyl-1H-[1,2,4]triazol-3-yl)-benzoic acid trifluoroacetate are dissolved in 5 mL methanol and hydrogenated at ambient temperature and 2.5 bar hydrogen pressure in the presence of palladium on charcoal (10%). The catalyst is suction filtered, the filtrate is evaporated down and the residue is purified by chromatography (reverse phase, acetonitrile/water gradient with 0.1% trifluoroacetic acid). Yellow solid. Yield: 62 mg (28%, trifluoroacetate); mass spectroscopy [M+H]+=496.

reactant | 3-(1-{3-[2-(6-benzyloxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-2-hydroxy-ethylamino]-3-methyl-butyl}-5-methyl-1H-[1,2,4]triazol-3-yl)-benzoic acid trifluoroacetate | 0.36 mmol, 250 mg | FC(C(=O)O)(F)F.C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC(CCN1N=C(N=C1C)C=1C=C(C(=O)O)C=CC1)(C)C)O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 1-{3-[2-hydroxy-2-(6-hydroxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-ethylamino]-3-methyl-butyl}-5-methyl-1H-[1,2,4]triazol-3-yl-benzoic acid | OC(CNC(CCN1N=C(N=C1C)C1=C(C(=O)O)C=CC=C1)(C)C)C1=CC(=CC=2NC(COC21)=O)O | C25H29N5O6
